US04992433
A mixture 1.2 parts of 2,6-difluoropyridazine, 4 parts of ethyl 4-[2-(4-piperidinyl)-ethoxy]benzoate butanedioate(1:1), 5.3 parts of sodium carbonate and 141 parts of N,N-dimethylformamide was stirred for 48 hours at 60° C. After cooling, the reaction mixture was poured into water. The precipitated product was filtered off, washed with water and dissolved in trichloromethane. The organic layer was dried, filtered and evaporated. The residue was crystallized from 2-propanol. The product was filtered off and dried, yielding 2.4 parts (64.3%) of ethyl 4-[2-[1-(6-fluoro-3-pyridazinyl)-4-piperidinyl]-ethoxy]benzoate; mp. 131.9° C. (comp. 73).

reactant | 2,6-difluoropyridazine | FN1NC(=CC=C1)F | C4H4F2N2
reactant | ethyl 4-[2-(4-piperidinyl)-ethoxy]benzoate butanedioate | C(CCC(=O)O)(=O)O.N1CCC(CC1)CCOC1=CC=C(C(=O)OCC)C=C1
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 4-[2-[1-(6-fluoro-3-pyridazinyl)-4-piperidinyl]-ethoxy]benzoate | 64.3% | FC1=CC=C(N=N1)N1CCC(CC1)CCOC1=CC=C(C(=O)OCC)C=C1 | C20H24FN3O3
